US05053338
A 250 ml rounded bottom flask was charged with triethylamine (3.3 g, 4.5 ml, 32 mmol), R-glycidol (2.0 g, 27 mmol)(Arco Company, Newton Square, PA) and dichloromethane (50 ml) then cooled to 0° C. A solution of 3-nitrobenzenesulfonyl chloride (6.0 g, 27 mmol) in dichloromethane (40 ml) was added dropwise over a 5-minute period to the glycidol solution and the reaction mixture was stirred at 0° C. under N2 for 3 hrs. The reaction mixture was poured into a separatory funnel and washed successively with 1N aqueous hydrochloric acid (90 ml), 5% aqueous sodium bicarbonate solution (90 ml), and saturated aqueous sodium chloride. The organic layer was separated, dried over anhydrous magnesium sulfate (10 g), filtered and concentrated in vacuo to yield (2S)-(+)-glycidyl-3-nitrobenzenesulfonate as a pale colored solid. Recrystallization from hexanes/EtOAc (1:1, 50 ml) provided 5.89 g (83%) of pure (2S)-(+)-glycidyl- 3-nitrobenzenesulfonate, m.p. 61°-63° C., [α]D +22.3° (c 0.41, chloroform), >95% optical purity.

reactant | triethylamine | 32 mmol, 4.5 ml, 3.3 g | C(C)N(CC)CC | C6H15N
reactant | R-glycidol | 27 mmol, 2.0 g | C1[C@H](O1)CO | C3H6O2
reactant | 3-nitrobenzenesulfonyl chloride | 27 mmol, 6.0 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | glycidol | C1C(O1)CO | C3H6O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (2S)-(+)-glycidyl-3-nitrobenzenesulfonate | C1[C@H](O1)COS(=O)(=O)C2=CC=CC(=C2)[N+](=O)[O-] | C9H9NO6S
